US05547954
A stirred solution of 1.7 grams (0.008 mole) of 2-amino-5-bromo-3-cyano-4-methylpyridine, 3.2 grams (0.012 mole) of 3,5-di(trifluoromethyl)phenylboronic acid (commercially available), 4.3 grams (0.031 mole) of potassium carbonate and 0.3 gram of tetrakis(triphenylphosphine)palladium(0) in 150 mL of toluene is heated at 90° C. for about 20 hours. After this time, the reaction mixture is stirred with 100 mL of water, and the organic layer is separated. The organic layer is concentrated under reduced pressure, yielding 2-amino-3-cyano-4-methyl-5-[3,5-di(trifluoromethyl)phenyl]pyridine.

reactant | 2-amino-5-bromo-3-cyano-4-methylpyridine | 0.008 mole, 1.7 grams | NC1=NC=C(C(=C1C#N)C)Br | C7H6BrN3
reactant | 3,5-di(trifluoromethyl)phenylboronic acid | 0.012 mole, 3.2 grams | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
reactant | potassium carbonate | 0.031 mole, 4.3 grams | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.3 gram | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-3-cyano-4-methyl-5-[3,5-di(trifluoromethyl)phenyl]pyridine | NC1=NC=C(C(=C1C#N)C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C15H9F6N3
